* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS2\TS2_LTSpice.asc
XU1 N001 0 Vo2 opamp Aol=100K GBW=10Meg
XU2 0 N004 Vo1 opamp Aol=100K GBW=10Meg
XU3 N003 0 N002 opamp Aol=100K GBW=10Meg
R4 N004 Vo2 {R4}
R1 N001 Vin {R1}
C1 Vo2 N001 {C1}
R2 Vo2 N001 {R2}
C2 N002 N004 {C2}
R5 N003 N002 {R5}
R6 Vo1 N003 {R6}
R3 Vo1 N001 {R3}
V1 Vin 0 AC 1
.include opamp.sub
.ac dec 1000 {w0/2/pi/10} {w0/2/pi*100}
* Versión NORMALIZADA
.param wz= 1 ww= 1
* Versión DESNORMALIZADA
#.param wz= 10e3   ww= 2*pi*10e3
.param C1={1/R/w0}
* w0=1/(R3*C)
.param w0=ww
* k=1/(R1*R3*C**2)
* Q=R2/R3
.param k=10
.param Q= 3
* wz= R3= R= 10e3
.param R= wz
.param C2={1/R/w0}
.param R1={R/k}
.param R2={Q*R}
.param R3={R}
.param R4={R}
.param R5={R}
.param R6={R}
.backanno
.end
